US08563575B2
A mixture of 2-chloro-1H-benzimidazole (6.10 g), bromoacetaldehyde diethyl acetal (7.22 mL), EtOH (70 mL), and 8 M NaOH aqueous solution (10 mL) was refluxed for 3 d. The reaction mixture was poured into water and the mixture was extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography eluting with hexane/AcOEt (10/1) to give 2-chloro-1-(2,2-diethoxyethyl)-1H-benzimidazole (5.50 g).

reactant | 2-chloro-1H-benzimidazole | 6.10 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | bromoacetaldehyde diethyl acetal | 7.22 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | EtOH | 70 mL | CCO | C2H6O
reactant | NaOH | 8 M, 10 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 2-chloro-1-(2,2-diethoxyethyl)-1H-benzimidazole | 5.50 g | ClC1=NC2=C(N1CC(OCC)OCC)C=CC=C2 | C13H17ClN2O2
